US07202363B2
4-amino-N-{1-[3-(dimethylamino)-3-oxopropyl]piperidin-3-yl}-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide
A mixture of 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-piperidin-3-ylthieno[3,2-c]pyridine-7-carboxamide (150 mg, 0.270 mmol) and N,N-dimethyl-acrylamide (28 mg, 0.283 mmol) in dichloromethane (5 mL) was stirred at room temperature for 2 hours. N,N-dimethylacrylamide (28 mg, 0.283 mmol) was added every 2 hour three times. The organic solvent was removed. The residue was purified by flash column chromatography on silica using dichloromethane/methanol/ammonium hydroxide (28–30% solution) (80:20:0.05) mixture as the mobile phase to give the title compound. 1H NMR (DMSO, d6) δ 1.39 (m, 1H), 1.51(m, 1H), 1.70 (m, 1H), 1.81 (m, 1H), 1.98 (m, 2H), 2.48 (m, 2H), 2.58 (m, 2H), 2.76 (m, 1H), 2.81 (s, 3H), 2.91 (m, 1H), 2.99 (s, 3H), 3.91 (s, 3H), 3.99 (m 1H), 4.04 (m, 3H), 7.07 (d, 1H), 7.15 (t, 1H), 7.18 (s, 1H), 7.33 (t, 1H), 7.35 (s, 1H), 7.60 (m, 2H), 7.71 (d, 1H), 7.99 (d, 1H), 8.16 (d, 1H), 8.59 (s, 1H), 9.50 (s, 1H). LCMS (Conditions a): MH+=654.1, Rt=2.55 min.

reactant | 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)-N-piperidin-3-ylthieno[3,2-c]pyridine-7-carboxamide | 0.270 mmol, 150 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NC2CNCCC2 | C30H30N6O3S
reactant | N,N-dimethyl-acrylamide | 0.283 mmol, 28 mg | CN(C(C=C)=O)C | C5H9NO
reactant | N,N-dimethylacrylamide | 0.283 mmol, 28 mg | CN(C(C=C)=O)C | C5H9NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-amino-N-{1-[3-(dimethylamino)-3-oxopropyl]piperidin-3-yl}-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxamide | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)NC2CN(CCC2)CCC(=O)N(C)C | C35H39N7O4S
